US05756507
[2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethyl]-[2-(4-aminophenyl)ethyl]amine
To a stirred solution of [2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethyl]-[2-(4-nitrophenyl)ethyl]amine (45 mg in 4 mL methanol) was added 2N hydrochloric acid (0.020 mL) and 18 mg of 10% palladium hydroxide on carbon catalyst. The reaction flask was fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 40 minutes the reaction was flushed with nitrogen, filtered over diatomaceous earth, concentrated in vacuo and purified by flash chromatography on silica gel (methylene chloride:methanol, 96:4) to provide the title compound (32 mg). m/e=416 (M+H)

reactant | [2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethyl]-[2-(4-nitrophenyl)ethyl]amine | 4 mL, 45 mg | COC=1C=C(C=CC1OC)C=1NC2=CC=CC=C2C1CCNCCC1=CC=C(C=C1)[N+](=O)[O-] | C26H27N3O4
reactant | hydrochloric acid | 2N, 0.020 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 18 mg | [OH-].[OH-].[Pd+2]
product | [2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethyl]-[2-(4-aminophenyl)ethyl]amine | 32 mg | COC=1C=C(C=CC1OC)C=1NC2=CC=CC=C2C1CCNCCC1=CC=C(C=C1)N | C26H29N3O2
